US04335055
The procedure described in Example 1 is followed, except that 17.1 g (0.1 mol) of 2-methoxybenzoyl chloride, 13 g (0.125 mol) of styrene, 23.2 g (0.125 mol) of tri-n-butylamine and 0.225 g (0.001 mol) of palladium acetate are used. After a reaction time of 3 hours at a bath temperature of 140° C., in 100 ml of diethyl carbonate as the solvent, 10.3 g (0.049 mol) of 2-methoxystilbene, corresponding to a yield of 49% of theory, are obtained; melting point 69°-70° C.

reactant | 2-methoxybenzoyl chloride | 0.1 mol, 17.1 g | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
reactant | styrene | 0.125 mol, 13 g | C=CC1=CC=CC=C1 | C8H8
reactant | tri-n-butylamine | 0.125 mol, 23.2 g | C(CCC)N(CCCC)CCCC | C12H27N
solvent | diethyl carbonate | 100 ml | C(OCC)(OCC)=O | C5H10O3
catalyst | palladium acetate | 0.001 mol, 0.225 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-methoxystilbene | 0.049 mol, 10.3 g, yield of 49% | COC1=C(C=CC=C1)C=CC1=CC=CC=C1 | C15H14O
